US06002008
4-(4-fluorophenylamino)-6,7-diethoxy-3-quinolinecarbonitrile
In the manner of Example 105 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with 4-fluoroaniline gave the title compound as a tan solid, mp 177-181° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 4-(4-fluorophenylamino)-6,7-diethoxy-3-quinolinecarbonitrile | FC1=CC=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C20H18FN3O2
